US05026722
7-Fluoro-1-methyl-indole-3-carboxylic acid
7-Fluoro-1-methylindole-3-carboxaldehyde (1.0 g) was dissolved in t-butanol (50 ml). 1.25M Sodium hydrogen phosphate (20 ml) was added followed by 1.0M potassium permanganate (30 ml), and the mixture was stirred at 20 for 16h. 2M Hydrochloric acid (200 ml) was then added and the mixture was extracted with ethyl acetate (2×200 ml). The combined, dried organic extracts were evaporated in vacuo to leave a solid which was purified by FCC eluting with hexane:ether (1:1) followed by hexane:ether:acetic acid (50:50:1) to give the title compound (192 mg), m.p. 225°-227°.

reactant | 7-Fluoro-1-methylindole-3-carboxaldehyde | 1.0 g | FC=1C=CC=C2C(=CN(C12)C)C=O | C10H8FNO
reactant | Sodium hydrogen phosphate | 1.25M, 20 ml | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | potassium permanganate | 1.0M, 30 ml | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Hydrochloric acid | 2M, 200 ml | Cl | ClH
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | 7-Fluoro-1-methyl-indole-3-carboxylic acid | 192 mg | FC=1C=CC=C2C(=CN(C12)C)C(=O)O | C10H8FNO2
